US09107415B2
To a mixture of rac-2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone (0.50 g, 1.29 mmol), cesium fluoride (0.39 g, 2.59 mmol) and copper(I) iodide (0.025 g, 0.129 mmol) in N,N-dimethylformamide (5.0 ml) is added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.053 g, 0.065 mmol) and ethynyltributylstannane (1.22 g, 3.88 mmol). The reaction mixture is heated at 110°C. under microwave irradiation for 60 mins, then allowed to cool to room temperature and is quenched with distilled water (20 ml) and extracted with ethyl acetate. The combined organic fractions are dried over magnesium sulfate, filtered and the filtrate evaporated in vacuo. The crude product is purified by flash column chromatography (0-8% methanol in dichloromethane as eluant) to afford rac-2-(4-ethynyl-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone.

reactant | rac-2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone | 1.29 mmol, 0.50 g | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)CC1=NC=CC=C1)=O)C | C20H20BrNO2
reactant | cesium fluoride | 2.59 mmol, 0.39 g | [F-].[Cs+]
reactant | ethynyltributylstannane | 3.88 mmol, 1.22 g | C(#C)[Sn](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.129 mmol, 0.025 g | [Cu]I
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.065 mmol, 0.053 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | rac-2-(4-ethynyl-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone | C(#C)C1=CC(=C(C(=C1)C)C=1C(C(CC1OC)CC1=NC=CC=C1)=O)C | C22H21NO2
